US08729064B2
Methanesulfonyl chloride (0.152 mL, 1.9 mmol) was added dropwise to a solution of (2-cyclohexyl-benzooxazol-6-yl)-(3-hydroxy-azetidin-1-yl)-methanone (0.48 g, 1.6 mmol) and DIPEA (0.558 mL, 3.2 mmol) in DCM (20 mL) at −40° C. under nitrogen. Immediately following the addition, the cooling bath was removed and the mixture slowly warmed to room temperature. The resulting mixture was then washed with water, dried using magnesium sulfate, filtered, and the solvent removed under reduced pressure. The resulting residue was dissolved in acetonitrile (1 mL). DIPEA (0.41 mL, 2.4 mmol) and N-(2-pyridyl)piperazine (1.6 mmol) were added. The resulting mixture was then microwaved at 160° C. for 4 hours. DMF (3 mL) was added to the resulting mixture, which was then purified by reverse phase liquid chromatography. The fractions containing product were diluted with 1N HCl (5 mL) and then lyophilized to yield 2-cyclohexyl-6-{[3-(4-pyridin-2-ylpiperazin-1-yl)azetidin-1-yl]carbonyl}-1,3-benzoxazole as its corresponding hydrochloride salt.

reactant | Methanesulfonyl chloride | 1.9 mmol, 0.152 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2-cyclohexyl-benzooxazol-6-yl)-(3-hydroxy-azetidin-1-yl)-methanone | 1.6 mmol, 0.48 g | C1(CCCCC1)C=1OC2=C(N1)C=CC(=C2)C(=O)N2CC(C2)O | C17H20N2O3
reactant | DIPEA | 3.2 mmol, 0.558 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DIPEA | 2.4 mmol, 0.41 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2-pyridyl)piperazine | 1.6 mmol | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-cyclohexyl-6-{[3-(4-pyridin-2-ylpiperazin-1-yl)azetidin-1-yl]carbonyl}-1,3-benzoxazole | C1(CCCCC1)C=1OC2=C(N1)C=CC(=C2)C(=O)N2CC(C2)N2CCN(CC2)C2=NC=CC=C2 | C26H31N5O2
